### PR TITLE
chore(LinearAlgebra/Multilinear): split Basic into {Defs,Basic}

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 1]
```diff
@@ -1176,40 +374,13 @@ theorem mkPiAlgebraFin_apply_const (a : A) :
...
-sending `m` to `f m • z`. -/
-def smulRight (f : MultilinearMap R M₁ R) (z : M₂) : MultilinearMap R M₁ M₂ :=
-  (LinearMap.smulRight LinearMap.id z).compMultilinearMap f
-
 @[simp]
 theorem smulRight_apply (f : MultilinearMap R M₁ R) (z : M₂) (m : ∀ i, M₁ i) :
     f.smulRight z m = f m • z :=
   rfl
 
 variable (R ι)
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:383]:
```suggestion
```

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 2]
```diff
@@ -107,253 +26,13 @@ variable [Semiring R] [∀ i, AddCommMonoid (M i)] [∀ i, AddCommMonoid (M₁ i
   [AddCommMonoid M₃] [AddCommMonoid M'] [∀ i, Module R (M i)] [∀ i, Module R (M₁ i)] [Module R M₂]
   [Module R M₃] [Module R M'] (f f' : MultilinearMap R M₁ M₂)
 
-instance : FunLike (MultilinearMap R M₁ M₂) (∀ i, M₁ i) M₂ where
-  coe f := f.toFun
-  coe_injective' f g h := by cases f; cases g; cases h; rfl
-
 initialize_simps_projections MultilinearMap (toFun → apply)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:29]: IMO this belongs in `defs`

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 3]
```diff
@@ -107,253 +26,13 @@ variable [Semiring R] [∀ i, AddCommMonoid (M i)] [∀ i, AddCommMonoid (M₁ i
...
-    have : ∀ j z, f j (update m i z j) = update (fun k => f k (m k)) i (f i z) j := fun j z =>
-      Function.apply_update (fun k => f k) _ _ _ _
-    simp [this]
-  map_update_smul' m i c x := by
-    have : ∀ j z, f j (update m i z j) = update (fun k => f k (m k)) i (f i z) j := fun j z =>
-      Function.apply_update (fun k => f k) _ _ _ _
-    simp [this]
-
 @[simp]
 theorem compLinearMap_apply (g : MultilinearMap R M₁' M₂) (f : ∀ i, M₁ i →ₗ[R] M₁' i)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:37]: Same comment as from the other PRs; I don't think separating definitions from the lemma that unfolds them is helpful:

* it makes it harder to read the docs to work out what the function does
* it increases the risk that the unfolding lemma is stated in the wrong generality

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean:29]: (without it, any `simps` someone adds to `Defs` will do the wrong thing)

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 4]
```diff
@@ -606,158 +285,6 @@ theorem map_update_sum {α : Type*} [DecidableEq ι] (t : Finset α) (i : ι) (g
...
-
--- TODO: Should add a ref here when available.
-/-- The "derivative" of a multilinear map, as a linear map from `(i : ι) → M₁ i` to `M₂`.
-For continuous multilinear maps, this will indeed be the derivative. -/
-def linearDeriv [DecidableEq ι] [Fintype ι] (f : MultilinearMap R M₁ M₂)
-    (x : (i : ι) → M₁ i) : ((i : ι) → M₁ i) →ₗ[R] M₂ :=
-  ∑ i : ι, (f.toLinearMap x i).comp (LinearMap.proj i)
-
 @[simp]
 lemma linearDeriv_apply [DecidableEq ι] [Fintype ι] (f : MultilinearMap R M₁ M₂)
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:289]: Following Eric's comment, should this also be moved? Looks like we can reduce the proof to `dsimp [linearDeriv]`, so it's not as heavy weight as it initially looks.

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 5]
```diff
@@ -1122,16 +349,6 @@ section
...
-See also `MultilinearMap.mkPiAlgebraFin` for a version that works with a non-commutative
-algebra `A` but requires `ι = Fin n`. -/
-protected def mkPiAlgebra : MultilinearMap R (fun _ : ι => A) A where
-  toFun m := ∏ i, m i
-  map_update_add' m i x y := by simp [Finset.prod_update_of_mem, add_mul]
-  map_update_smul' m i c x := by simp [Finset.prod_update_of_mem]
-
 variable {R A ι}
 
 @[simp]
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:354]: Idem.

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 3 above)
Comment (Vierkantor) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean:37]: Agreed, especially when they look like `@[simps]` can generate them too. (This applies to quite a few results below too.)

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean:289]: I think for many of these the `def` itself could live in `Basic`

File: Mathlib/LinearAlgebra/Multilinear/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,1303 @@
...
+lemma domDomRestrict_apply (f : MultilinearMap R M₁ M₂) (P : ι → Prop)
+    [DecidablePred P] (x : (i : {a // P a}) → M₁ i) (z : (i : {a // ¬ P a}) → M₁ i) :
+    f.domDomRestrict P z x = f (fun j => if h : P j then x ⟨j, h⟩ else z ⟨j, h⟩) := rfl
+
+-- TODO: Should add a ref here when available.
+/-- The "derivative" of a multilinear map, as a linear map from `(i : ι) → M₁ i` to `M₂`.
+For continuous multilinear maps, this will indeed be the derivative. -/
+def linearDeriv [DecidableEq ι] [Fintype ι] (f : MultilinearMap R M₁ M₂)
+    (x : (i : ι) → M₁ i) : ((i : ι) → M₁ i) →ₗ[R] M₂ :=
+  ∑ i : ι, (f.toLinearMap x i).comp (LinearMap.proj i)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/Defs.lean:507]: Since this depends on big operators, I'd be tempted to move it to `Basic.lean`
